US05055482
A mixture of 3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-hydroxypyrazole (1.0g) and N-bromosuccinimide (0.55g) in chloroform (20ml) was stirred at room temperature for 75 minutes, then washed with water (3×20 ml), filtered through phase-separation paper and evaporated. The residue was purified by dry-column chromatography (eluant ether: hexane 1:1 then 3:1) to give 5-bromo-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-hydroxypyrazole as a buff colored solid, m.p. 145°-151° C.

reactant | 3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-hydroxypyrazole | 1.0g | C(#N)C1=NN(C=C1O)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C11H4Cl2F3N3O
reactant | N-bromosuccinimide | 0.55g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chloroform | 20ml | C(Cl)(Cl)Cl | CHCl3
product | 5-bromo-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-hydroxypyrazole | BrC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)O | C11H3BrCl2F3N3O
